US05023255
(i) Methyl [2-(aminocarbonyl)-1-(3-methylphenyl)hydrazino]acetate
A mixture of 2-(3-methylphenyl)hydrazinecarboxamide (5 g), DEA (10.5 ml) and methyl bromoacetate (4.5 ml) in toluene (100 ml) was heated under reflux for 20 h, and was then partitioned between ethyl acetate (200 ml) and water (200 ml). The organic layer was washed with water (2×100 ml) and saturated brine (100 ml) before being dried and evaporated in vacuo to leave an oil (6.1 g). This was purified by FCC eluting with ethyl acetate to give the title compound (4.4 g) as a solid, m.p. 68°-70° after recrystallisation from ethyl acetate and trituration with ether.

reactant | 2-(3-methylphenyl)hydrazinecarboxamide | 5 g | CC=1C=C(C=CC1)NNC(=O)N | C8H11N3O
reactant | methyl bromoacetate | 4.5 ml | BrCC(=O)OC | C3H5BrO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl [2-(aminocarbonyl)-1-(3-methylphenyl)hydrazino]acetate | 6.1 g | NC(=O)NN(C1=CC(=CC=C1)C)CC(=O)OC | C11H15N3O3
